US04906634
2,N-Dimethyl-N-(3-methyl-4-nitrophenyl)pyridine-4-carboxamide
To a solution of 16.6 g (0.1 mol) of 3,N-dimethyl-4-nitrobenzenamine and 10.2 g (0.1 mol) of triethylamine in mL of methylene chloride cooled to 0° C. under a nitrogen atmosphere add slowly a solution of 15.6 g (0.1 mol) of 2-methylpyridine-4-carbonyl chloride (prepared from the corresponding acid and thionyl chloride) such that the temperature is maintained between 0°-5° C. After the addition is complete, stir the mixture for 6 h and allow to warm slowly to room temperature. Quench the reaction mixture by the addition of 50 mL of water. Separate the layers and wash the organic layer with two 50 mL portions of water, two 50 mL portions of 5% sodium bicarbonate solution and 50 mL of saturated sodium chloride solution. Dry the methylene chloride solution over anhydrous sodium sulfate. Remove the drying agent by filtration and evaporate the solvent to obtain the title compound.

reactant | 3,N-dimethyl-4-nitrobenzenamine | 0.1 mol, 16.6 g | CC=1C=C(C=CC1[N+](=O)[O-])NC | C8H10N2O2
reactant | triethylamine | 0.1 mol, 10.2 g | C(C)N(CC)CC | C6H15N
reactant | 2-methylpyridine-4-carbonyl chloride | 0.1 mol, 15.6 g | CC1=NC=CC(=C1)C(=O)Cl | C7H6ClNO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,N-Dimethyl-N-(3-methyl-4-nitrophenyl)pyridine-4-carboxamide | CC1=NC=CC(=C1)C(=O)N(C1=CC(=C(C=C1)[N+](=O)[O-])C)C | C15H15N3O3
